US06960586B2
Production of methyl 1-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthoate
A mixture of 1-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthyl trifluoromethanesulfonate (26.8 g), triethylamine (15.7 mL), methanol (50 mL), palladium acetate (0.61 g), 1,1′-bis(diphenylphosphino)ferrocene (1.50 g) and DMF (150 mL) was stirred under a carbon monooxide atmosphere with heating at 70° C. for 16 hrs. The reaction mixture was cooled and diluted with water (1.6 L). The precipitate was collected by filtration and purified by column chromatography (carrier: silica gel, developing solvent: ethyl acetate). The obtained crystal was washed with diisopropyl ether and dried to give the title compound (20.9 g) as-colorless crystals.

reactant | 1-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthyl trifluoromethanesulfonate | 26.8 g | FC(S(=O)(=O)OC1=C(C2=CC=C(C=C2C=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)(F)F | C35H25F3N2O4S
reactant | triethylamine | 15.7 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 50 mL | CO | CH4O
reactant | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | water | 1.6 L | O | H2O
catalyst | palladium acetate | 0.61 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 1.50 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | methyl 1-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthoate | 20.9 g | CC1=C(C=CC2=CC(=CC=C12)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C36H28N2O3
